US07612114B2
Acetic acid 4-[2-(2-aminophenyl)vinyl]phenyl ester
To a solution of 1-bromo-2-nitrobenzene (2.0 g), palladium(II) acetate (112 mg) and 2-(di-tert-butylphosphino)biphenyl (150 mg) in acetonitrile (20 ml) were sequentially added 4-acetoxystyrene (1.7 ml) and N,N-diisopropylethylamine (5 ml) under a nitrogen atmosphere, and the solution was stirred for 3 hours at 80° C. The solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. Obtained by purifying the residue by silica gel column chromatography (hexane-ethyl acetate system), acetic acid 4-[2-(2-nitrophenyl)vinyl]phenyl ester (840 mg) was used according to an analogous synthetic method to Example 57 to provide the title compound (330 mg).

reactant | 1-bromo-2-nitrobenzene | 2.0 g | BrC1=C(C=CC=C1)[N+](=O)[O-] | C6H4BrNO2
reactant | 2-(di-tert-butylphosphino)biphenyl | 150 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | 4-acetoxystyrene | 1.7 ml | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
reactant | N,N-diisopropylethylamine | 5 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Acetic acid 4-[2-(2-aminophenyl)vinyl]phenyl ester | 330 mg | NC1=C(C=CC=C1)C=CC1=CC=C(C=C1)OC(C)=O | C16H15NO2
